US04638060
(A) N-(t-Butoxycarbonyl)glycine, benzyl ester
N-(t-Butoxycarbonyl)glycine (8.75 g, 0.05 mole) and benzyl bromide (9.4 g, 0.055 mole) were slurried in 20 ml of dimethylformamide and treated with 6.0 g (0.06 mole) of potassium bicarbonate under argon. After stirring for 38 hours, water was added to give a mass of chunky white solid which was filtered and washed with water. The solid was taken up in ethyl acetate, dried (sodium sulfate), evaporated to a solid, and recrystallized from 600 ml of hot hexane. Cooling to -5° C. for two hours and filtering gave 11.6 g of crystalline flakes, melting point 72°-73° C., in two crops.

reactant | N-(t-Butoxycarbonyl)glycine | 0.05 mole, 8.75 g | C(C)(C)(C)OC(=O)NCC(=O)O | C7H13NO4
reactant | benzyl bromide | 0.055 mole, 9.4 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium bicarbonate | 0.06 mole, 6.0 g | C([O-])(O)=O.[K+]
reactant | water | O | H2O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | N-(t-Butoxycarbonyl)glycine, benzyl ester | C(C)(C)(C)OC(=O)NCC(=O)OCC1=CC=CC=C1 | C14H19NO4
